US05563141
4-[4-[(4-dimethylaminopyrid-3-yl)methoxy]phenoxy]butanoic acid
A mixture containing ethyl 4-[4-[(4-dimethylaminopyrid-3-yl)methoxy]phenoxy]butanoate (25 mg), aqueous sodium hydroxide (1M, 0.2 ml), methanol (0.5 ml) and water (0.5 ml) was stirred for 3 hours then neutralised with hydrochloric acid (1M, 0.2 ml) and concentrated. The residue was dissolved in dichloromethane (5 ml), filtered, and the filtrate was concentrated to give the title compound (17 mg) as a colourless gum. NMR (d6DMSO+d4AcOH): δ2.0(2H,q); 2.4(2H,t); 3.35(6H,s); 3.95(2H,t); 5.1(2H,s); 6.8-7.0(4H, dd +1H,m); 8.15(1H,dd); 8.3(1H,d); m/e 331(M+H)+.

reactant | ethyl 4-[4-[(4-dimethylaminopyrid-3-yl)methoxy]phenoxy]butanoate | 25 mg | CN(C1=C(C=NC=C1)COC1=CC=C(OCCCC(=O)OCC)C=C1)C | C20H26N2O4
reactant | sodium hydroxide | 1M, 0.2 ml | [OH-].[Na+]
reactant | methanol | 0.5 ml | CO | CH4O
reactant | hydrochloric acid | 1M, 0.2 ml | Cl | ClH
solvent | water | 0.5 ml | O | H2O
product | 4-[4-[(4-dimethylaminopyrid-3-yl)methoxy]phenoxy]butanoic acid | 17 mg | CN(C1=C(C=NC=C1)COC1=CC=C(OCCCC(=O)O)C=C1)C | C18H22N2O4
